US04762840
Using the methpod similar to that used in the preparation of 1-methylcyclohexyl 2-amino-α-methylbenzothiazole-6-acetate, 19.1 g of 1-adamantyl 2-(p-aminophenyl)propionate were reacted to obtain 18.97 g (83% yield) of 1-adamantyl 2-amino-α-methylbenzothiazole-6-acetate as a creamy white solid melting at 151°-153° C.

reactant | 1-methylcyclohexyl 2-amino-α-methylbenzothiazole-6-acetate | NC=1SC2=C(N1)C=CC(=C2)C(C(=O)OC2(CCCCC2)C)C | C17H22N2O2S
reactant | 1-adamantyl 2-(p-aminophenyl)propionate | 19.1 g | NC1=CC=C(C=C1)C(C(=O)OC12CC3CC(CC(C1)C3)C2)C | C19H25NO2
product | 1-adamantyl 2-amino-α-methylbenzothiazole-6-acetate | 18.97 g, 83% yield | NC=1SC2=C(N1)C=CC(=C2)C(C(=O)OC21CC3CC(CC(C2)C3)C1)C | C20H24N2O2S
